US05290789
To diethyl 2,3,4,8-tetramethyl-2-azabicyclo[2.2.2]octane-6,6-dicarboxylate (121 g, 389 mmol) at 0° C. was added formic acid (121 mL, 3.2 mol) , followed by triethylamine (179 mL, 1.3 mol) . The mixture was slowly heated to 160° C. over a period of 2 hours and was stirred at 160° C. for 20 minutes. The mixture was cooled to room temperature, and allowed to stand under nitrogen for 24 hours. The mixture was basified by the addition of saturated NaHCO3 and was extracted with ether (3×). The organic layers were combined, washed with saturated NaHCO3 then brine and were dried over anhydrous MgSO4. The solvent was removed in vacuo and the residue was taken up in 0.5 N HCl (500 mL) and washed with hexanes (3×). The aqueous layer was basified with concentrated NH4OH and extracted with ether (3×). The ether layer was dried over MgSO4 and concentrated in vacuo to afford 34 g (36%) of ethyl 1,2,3,4-tetramethyl-3-piperidinepropanoate as a yellow oil. The combined aqueous phases were concentrated in vacuo and the residue was triturated with hot ethanol (800 mL at 70° C.). The solution was filtered, triturated with additional hot ethanol (300 mL) and filtered once again. The ethanol filtrates were combined, acidified with concentrated H2SO4 and refluxed for 24 hours under nitrogen. The solution was basified with concentrated NH4OH and extracted with ether (3×) . The ether layers were combined, washed with saturated NaHCO3 (2×) and dried over MgSO4. The solvent was removed in vacuo to afford 28.5 g of additional product for a total yield of 62.5 g (67%). The product was treated with p-toluenesulfonic acid to afford ethyl 1,2,3,4-tetramethyl-3-piperidine-propanoate p-tolulenesulfonate as a white powder, m.p. 171-171.5° C.

reactant | diethyl 2,3,4,8-tetramethyl-2-azabicyclo[2.2.2]octane-6,6-dicarboxylate | 389 mmol, 121 g | CN1C2C(CC(C1C)(C(C2)C)C)(C(=O)OCC)C(=O)OCC | C17H29NO4
reactant | formic acid | 3.2 mol, 121 mL | C(=O)O | CH2O2
reactant | triethylamine | 1.3 mol, 179 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | ethyl 1,2,3,4-tetramethyl-3-piperidinepropanoate | 34 g, 36% | CN1C(C(C(CC1)C)(CCC(=O)OCC)C)C | C14H27NO2
